US08871753B2
Step F: tert-Butyl 4-(2-{2-[(E)-2-(5-aminopyridin-3-yl)vinyl]-4-[(2,5-dichloropyrimidin-4-yl)amino]phenoxy}ethyl)piperidine-1-carboxylate
The desired compound was prepared according to the procedure of Example B334, step G, using tert-butyl 4-(2-{4-[(2,5-dichloropyrimidin-4-yl)amino]-2-iodophenoxy}ethyl)piperidine-1-carboxylate and 5-vinylpyridine-3-amine as the starting materials in 99% yield. LCMS for C29H35Cl2N6O3 (M+H)+: m/z=585.3, 587.2.

reactant | tert-butyl 4-(2-{4-[(2,5-dichloropyrimidin-4-yl)amino]-2-iodophenoxy}ethyl)piperidine-1-carboxylate | ClC1=NC=C(C(=N1)NC1=CC(=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)I)Cl | C22H27Cl2IN4O3
reactant | 5-vinylpyridine-3-amine | C(=C)C=1C=C(C=NC1)N | C7H8N2
product | tert-Butyl 4-(2-{2-[(E)-2-(5-aminopyridin-3-yl)vinyl]-4-[(2,5-dichloropyrimidin-4-yl)amino]phenoxy}ethyl)piperidine-1-carboxylate | 99% yield | NC=1C=C(C=NC1)/C=C/C1=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)NC1=NC(=NC=C1Cl)Cl | C29H34Cl2N6O3
